US09212182B2
Intermediate CT: N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1-(2,3′,5′-trifluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide
To a solution of 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.037 g, 0.062 mmol) and (3,5-difluorophenyl)boronic acid (0.015 g, 0.092 mmol) in DMF (0.246 ml) and water (0.062 ml) was added potassium carbonate (0.026 g, 0.185 mmol) followed by PdCl2dppf, DCM adduct (2.255 mg, 3.08 μmol). The resulting mixture was heated to 50° C. and stirred for 2.5 hours. The solution was then cooled to room temperature and transferred to a sep. funnel containing water. The aqueous layer was washed 2× with DCM. The aqueous layer was subsequently neutralized and washed 3× with DCM. The organic layers were combined, dried with MgSO4, filtered and concentrated to an oil. The crude product was used without further purification assuming quantitative yield. m/z (ESI) 634.2 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.062 mmol, 0.037 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=NOC=C1)=O)O | C26H19BrFN3O6S
reactant | (3,5-difluorophenyl)boronic acid | 0.092 mmol, 0.015 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 0.185 mmol, 0.026 g | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 3.08 μmol, 2.255 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.246 ml | CN(C)C=O | C3H7NO
solvent | water | 0.062 ml | O | H2O
product | N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1-(2,3′,5′-trifluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide | quantitative yield | O1N=C(C=C1)N(S(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1O)C1=CC(=CC(=C1)F)F)F)=O)CC1=CC=C(C=C1)OC | C32H22F3N3O6S
